US09278983B2
To a mixture of 2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-thiol (535 mg), iodomethane (166 μl), and ethanol (5 ml), potassium hydroxide (200 mg) was added at room temperature, and stirred for 5 hours. To the reaction mixture, saturated aqueous ammonium chloride solution was added, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 515 mg of 2-(2-ethylsulfanyl-phenyl)-3-methyl-6-methylsulfanyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 253).

reactant | 2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-thiol | 535 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)S)N1C | C15H15N3S2
reactant | iodomethane | 166 μl | IC | CH3I
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(2-ethylsulfanyl-phenyl)-3-methyl-6-methylsulfanyl-3H-imidazo[4,5-b]pyridine | 515 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)SC)N1C | C16H17N3S2
